US09233111B2
(1) 4-Chlorocarbonyl-3-fluoro-benzoic acid methyl ester, Intermediate 33
2-Fluoro-terephthalic acid 4-methyl ester (J. Med. Chem., 52(19), 5950-5966; 2009) (500 mg, 2.25 mmol) was suspended in DCM (10 ml). Then oxalyl chloride (5.08 ml, 58.0 mmol) and a drop of DMF were added. The resulting mixture was refluxed for 14 hrs. The solvents were removed in vacuo, and the resulting crude Intermediate 33 was used in the next step without purification.

reactant | 2-Fluoro-terephthalic acid 4-methyl ester | 2.25 mmol, 500 mg | COC(C1=CC(=C(C(=O)O)C=C1)F)=O | C9H7FO4
reactant | oxalyl chloride | 58.0 mmol, 5.08 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Chlorocarbonyl-3-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C(=O)Cl)F)=O | C9H6ClFO3
